US04939261
A solution of 2.5 g of pivaloyloxymethyl 4-(benzyloxycarbonyl)-2,4-(R*,R*)-dibenzylbutyrate in 75 ml of ethanol is hydrogenated at atmospheric pressure in the presence of 0.2 g of 5% palladium on carbon. The reaction is filtered and evaporated to give 4-(pivaloyloxymethoxycarbonyl)-2,4-(R*,R*)-dibenzylbutyric acid.

reactant | pivaloyloxymethyl 4-(benzyloxycarbonyl)-2,4-(R*,R*)-dibenzylbutyrate | 2.5 g | C(C1=CC=CC=C1)OC(=O)[C@H](C[C@@H](C(=O)OCOC(C(C)(C)C)=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C32H36O6
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 4-(pivaloyloxymethoxycarbonyl)-2,4-(R*,R*)-dibenzylbutyric acid | C(C(C)(C)C)(=O)OCOC(=O)[C@H](C[C@@H](C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C25H30O6
